spice
* SPICE Netlist
* Voltage Sources
VDD 6 0 DC <value>  ; Define the voltage value accordingly
Vin 7 0 DC <value>  ; Define the voltage value accordingly
* Current Sources
? Missing component
* NMOS Transistors
M1 3 7 5 5 NMOS_MODEL
M2 3 2 5 5 NMOS_MODEL
* PMOS Transistors
M3 6 3 6 6 PMOS_MODEL
M4 6 4 6 6 PMOS_MODEL
* Resistors
R1 4 2 <value>  ; Define the resistance value accordingly
R2 2 0 <value>  ; Define the resistance value accordingly
* Voltage across R2
VF 2 0
* Model Definitions (Replace with actual models)
.model NMOS_MODEL NMOS
.model PMOS_MODEL PMOS
.end
